US06147073
To a suspension of 5-amino-2-oxindole (800 mg, 5.4 mM) and N-tert-butoxycarbonylalanine (1020 mg, 5.4 mM) in dichloromethane (50 ml) were added benzotriazol-1-yloxytripyrrolidinophosphonium hexafluorophosphate (2800 mg, 5.6 mM) and N-methylmorpholine (1.2 ml, 11 mM). The mixture was stirred for 15 h at room temperature. Then the solvent was evaporated under vacuum, the residue suspended in water and extracted 3 times with ethyl acetate. The collected extracts were evaporated and then purified by flash chromatography on silica gel using as eluant cyclohexane/ethylacetate 1:9. Thus pure 5-(N-tert-butoxycarbonylalanylamino)-2-oxindole was obtained (600 mg). A solution of the above compound (250 mg, 0.97 mM) in trifluoroacetic acid (15 ml) was maintained for 1 h at room temperature. Then the solution was concentrated under vacuum and ether added to precipitate 5-(alanylamino)-2-oxindole.

reactant | 5-amino-2-oxindole | 5.4 mM, 800 mg | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | N-tert-butoxycarbonylalanine | 5.4 mM, 1020 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | benzotriazol-1-yloxytripyrrolidinophosphonium hexafluorophosphate | 5.6 mM, 2800 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N-methylmorpholine | 11 mM, 1.2 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-(N-tert-butoxycarbonylalanylamino)-2-oxindole | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NC=1C=C2CC(NC2=CC1)=O | C16H21N3O4
